US08735584B2
2-Amino-3-bromo-5-nitropyridine (1.00 g, 4.59 mmol), 4-dimethylaminopyridine (1.12 g, 9.17 mmol), and di-tert-butyl dicarbonate (1.20 g, 5.50 mmol) were dissolved in CH2Cl2 (22 mL), and stirred for 48 h at room temperature. The reaction mixture was washed with 0.1 M HCl and brine. The organic extracts were dried over MgSO4, filtered, and concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 65% EtOAc in hexanes to provide (3-bromo-5-nitro-pyridin2-yl)-carbamic acid tert-butyl ester (600 mg, 41% yield) as a white solid.

reactant | 2-Amino-3-bromo-5-nitropyridine | 4.59 mmol, 1.00 g | NC1=NC=C(C=C1Br)[N+](=O)[O-] | C5H4BrN3O2
reactant | di-tert-butyl dicarbonate | 5.50 mmol, 1.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 9.17 mmol, 1.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
product | (3-bromo-5-nitro-pyridin2-yl)-carbamic acid tert-butyl ester | 600 mg, 41% yield | C(C)(C)(C)OC(NC1=NC=C(C=C1Br)[N+](=O)[O-])=O | C10H12BrN3O4
